US04080461
6 G. of 1-amino-2-nitro-4-thiocyanatobenzene in 20 ml. of dimethylformamide is treated under nitrogen with 1.17 g. of sodium borohydride in 10 ml. of dimethylformamide at not greater than 30° C. The mixture is stirred at 15° to 20° C for 1 hour, then treated with 5 g. of 2-bromoethyl ethylether at 20°-25° C. The mixture is heated to 100° C for 2 hours, then cooled and diluted with water. The product is extracted with chloroform and after drying of the chloroform solution with sodium sulfate, 1-amino-2-nitro-4-(2-ethoxyethylthio) benzene is obtained by evaporation of the solution.

reactant | 1-amino-2-nitro-4-thiocyanatobenzene | NC1=C(C=C(C=C1)SC#N)[N+](=O)[O-] | C7H5N3O2S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium borohydride | [BH4-].[Na+]
reactant | 2-bromoethyl ethylether | BrCCOCC | C4H9BrO
solvent | water | O | H2O
product | 1-amino-2-nitro-4-(2-ethoxyethylthio) benzene | NC1=C(C=C(C=C1)SCCOCC)[N+](=O)[O-] | C10H14N2O3S
